US08975415B2
To a solution of N-[(4′R)-2″-amino-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-6′-yl]-5-(difluoromethyl)pyrazine-2-carboxamide (800 mg, 1.86 mmol) in MeOH (10 mL) was added 4M solution of hydrogen chloride in ethyl acetate (0.5 mL, 2 mmol) and the mixture was concentrated in vacuo. The residue was triturated with EtOH (10 mL), and the mixture was refluxed for 30 minutes and stirred at room temperature overnight. The precipitate was collected, washed with EtOH (2 mL), and dried under reduced pressure at 70° C. overnight to afford N-[(4′R)-2″-amino-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-6′-yl]-5-(difluoromethyl)pyrazine-2-carboxamide hydrochloride (449 mg) as a crystal.

reactant | N-[(4′R)-2″-amino-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-6′-yl]-5-(difluoromethyl)pyrazine-2-carboxamide | 1.86 mmol, 800 mg | NC=1OC[C@@]2(N1)C1(C(OC3=CC=C(C=C32)NC(=O)C3=NC=C(N=C3)C(F)F)(C)C)CC1 | C21H21F2N5O3
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 2 mmol, 0.5 mL | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
product | N-[(4′R)-2″-amino-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-6′-yl]-5-(difluoromethyl)pyrazine-2-carboxamide hydrochloride | 449 mg | Cl.NC=1OC[C@@]2(N1)C1(C(OC3=CC=C(C=C32)NC(=O)C3=NC=C(N=C3)C(F)F)(C)C)CC1 | InChI=1S/C21H21F2N5O3.ClH/c1-19(2)20(5-6-20)21(10-30-18(24)28-21)12-7-11(3-4-15(12)31-19)27-17(29)14-9-25-13(8-26-14)16(22)23;/h3-4,7-9,16H,5-6,10H2,1-2H3,(H2,24,28)(H,27,29);1H/t21-;/m0./s1
